US08623898B2
N-(2-Hydroxyethyl)-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide
A mixture of 2-(tetrahydro-2H-pyran-4-ylamino)ethanol (3.45 g), 1-methyl-1H-imidazole-4-carboxylic acid (3.00 g), HATU (13.6 g), diisopropylethylamine (12.4 mL) and acetonitrile (52 mL) was stirred at room temperature for 2 hours. The solvents were distilled off under reduced pressure and the resulting residue was purified by column chromatography (silica gel cartridge; chloroform/methanol=98:2 to 96:4) to give the titled compound (2.34 g).

reactant | 2-(tetrahydro-2H-pyran-4-ylamino)ethanol | 3.45 g | O1CCC(CC1)NCCO | C7H15NO2
reactant | 1-methyl-1H-imidazole-4-carboxylic acid | 3.00 g | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | HATU | 13.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 12.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 52 mL | C(C)#N | C2H3N
product | N-(2-Hydroxyethyl)-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide | 2.34 g | OCCN(C(=O)C=1N=CN(C1)C)C1CCOCC1 | C12H19N3O3
